US09034866B2
Synthesis of 8-Fluoro-9-[(R)-3-hydroxy-3-(5-methyl-isoxazol-3-yl)-but-1-ynyl]-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide
Following Procedure F, 9-Bromo-8-fluoro-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide was reacted with (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol to give the titled compound as a colorless solid after purification by reverse-phase HPLC. LCMS: 396.1 [M+H]+; 1H NMR (400 MHz, DMSO) δ 8.66 (d, J=8.5 Hz, 1H), 8.45 (s, 1H), 7.84 (s, 1H), 7.02 (d, J=10.4 Hz, 1H), 6.52 (s, 1H), 6.35 (s, 1H), 4.39 (t, J=4.8 Hz, 2H), 3.39 (m, 3H), 2.41 (s, 3H), 1.83 (s, 3H).

reactant | 9-Bromo-8-fluoro-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide | BrC=1C(=CC2=C(C=3N=C(SC3CCO2)C(=O)N)C1)F | C12H8BrFN2O2S
reactant | (2R)-2-(5-methylisoxazol-3-yl)but-3-yn-2-ol | CC1=CC(=NO1)[C@@](C)(C#C)O | C8H9NO2
product | 8-Fluoro-9-[(R)-3-hydroxy-3-(5-methyl-isoxazol-3-yl)-but-1-ynyl]-4,5-dihydro-6-oxa-3-thia-1-aza-benzo[e]azulene-2-carboxylic acid amide | FC1=CC2=C(C=3N=C(SC3CCO2)C(=O)N)C=C1C#C[C@](C)(C1=NOC(=C1)C)O | C20H16FN3O4S
